US05273999
Preparation of 5-[2-(2-Carboxyphenyl)-1-oxoethyl]-2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic Acid
A mixture of 0.145 g (0.24 mmol) of 2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-5-(1-oxo-1H-2-benzopyran-3-yl)benzenepropanoic acid ethyl ester in 5 mL of THF and 5 mL of water was treated with 29.8 mg (0.71 mmol) of lithium hydroxide monohydrate and the mixture was stirred for 47 hrs. After being acidified with 16 mL of 3N aqueous sulfuric acid, the resulting mixture was worked up in the usual manner. The crude product was crystallized from hexane-ethyl acetate to give 0.114 g (79.6%) of the title compound as a white solid, mp 178°-182° C.

reactant | 2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-5-(1-oxo-1H-2-benzopyran-3-yl)benzenepropanoic acid ethyl ester | 0.24 mmol, 0.145 g | C(C)OC(CCC1=C(C=CC(=C1)C=1OC(C2=C(C1)C=CC=C2)=O)OCCCCCOC2=C(C1=C(C(CCO1)=O)C=C2)CCC)=O | C37H40O8
reactant | lithium hydroxide monohydrate | 0.71 mmol, 29.8 mg | O.[OH-].[Li+]
reactant | sulfuric acid | 3N, 16 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 5-[2-(2-Carboxyphenyl)-1-oxoethyl]-2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic Acid | 0.114 g, 79.6% | C(=O)(O)C1=C(C=CC=C1)CC(=O)C=1C=CC(=C(C1)CCC(=O)O)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C35H38O9
